* D:\Documentos\Aulas Universidade\4º Ano\Sistemas de Instrumentação Eletrónica\Prática\Projeto 4\circuito.asc
R5 0 N002 4k7
R6 N002 N003 680k
V2 Vcc 0 5
V§Termopar N004 N005 {Vtp}
R4 N005 0 150
R3 N001 N005 100k
R1 N001 0 5k6
R§Termistor Vref N001 {Rt}
XU4 N004 N002 Vcc 0 Vadc OP191
R2 Vadc N003 390k
R7 Vcc Vref 82
XU2 Vref 0 Vref TL431
.tran 1
.param Vtp=38.75u*(Tproc-Tamb)
.param Tproc=0
.param Tamb=25
.param Rt=10k*exp(3540*((1/(Tamb+273))-(1/298)))
.lib ADI.lib
.lib TL431.sub
.backanno
.end
